US04857655
An autoclave reactor having approximately 3.8 liter capacity is charged with 400 grams of isobutylene reactant, 600 grams of n-octane solvent and 1000 grams of aqueous 70% methanesulfonic acid catalyst. The reactor is pressurized to about 12.3 atmospheres at room temperature by addition of arsine reactant in molar excess with respect to isobutylene. The autoclave is sealed and its contents are heated at 80°-95° C. with constant agitation for four hours reaction time. The contents are then cooled to 8° C. before the reactor is opened. Unreacted arsine is vented from the reactor. By gas chromatographic analysis of the liquid reaction product mixture, yields of 350 grams mono-1,1-dimethylethylarsine (36.6% yield) and 85 grams bis(1,1-dimethylethyl)arsine (6.3% yield) are measured. The organic phase separated from the liquid product mixture is washed with water, dried and then distilled at 68°-69° C. to separate the mono-1,1-dimethylethylarsine. The bis(dimethylethyl)arsine is separated by further distillation of the reaction product.

reactant | isobutylene | 400 grams | CC(C)=C | C4H8
reactant | arsine | [AsH3] | AsH3
solvent | n-octane | 600 grams | CCCCCCCC | C8H18
catalyst | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
product | bis(1,1-dimethylethyl)arsine | 85 grams, 6.3% yield | CC(C)(C)[AsH]C(C)(C)C | C8H19As
